US05273982
443 mg of N-[3-[(benzyloxy)carbonyl]-N-[5-[p-[N-[(benzyloxy)-carbonyl]amidino]benzamido]valeryl]-L-alanyl]-3-phenyl-L-alanine benzyl ester and 111 mg of Pd/C in 9 ml of acetic acid were stirred under hydrogen gas for 31/2hours. The solution was filtered and evaporated, the residue was dissolved in water and the solution was again evaporated. The residue was stirred in water, filtered off with suction and dried. 246 mg of N-[N-[5-(p-amidinobenzamido)valeryl]-L-α-aspartyl]-3-phenyl-L-alanine, m.p. 241° C., was obtained as the hydrate (1:2).

reactant | N-[3-[(benzyloxy)carbonyl]-N-[5-[p-[N-[(benzyloxy)-carbonyl]amidino]benzamido]valeryl]-L-alanyl]-3-phenyl-L-alanine benzyl ester | 443 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(CCCCNC(C1=CC=C(C=C1)C(NC(=O)OCC1=CC=CC=C1)=N)=O)=O)CC(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C48H49N5O9
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 111 mg | [Pd] | Pd
product | N-[N-[5-(p-amidinobenzamido)valeryl]-L-α-aspartyl]-3-phenyl-L-alanine | 246 mg | C(N)(=N)C1=CC=C(C(=O)NCCCCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C26H31N5O7
